US04235930
(5Z,13E)-(15S,16RS)-16-Methyl-15-hydroxy-9-oxo-5,13-prostadien-18-ynoic Acid
410 mg. of (5Z,13E)-(15S,16RS)-16-methyl-9-oxo-15-(tetrahydropyran-2-yloxy)-5,13-prostadien-18-ynoic acid is agitated at 23° for 16 hours with 11 ml. of a mixture of glacial acetic acid/water/THF (65/35/10); the mixture is evaporated under vacuum, and the residue is purified by column chromatography on silica gel. With methylene chloride/5% methanol, 290 mg. of the title compound is obtained as a colorless oil.

reactant | (5Z,13E)-(15S,16RS)-16-methyl-9-oxo-15-(tetrahydropyran-2-yloxy)-5,13-prostadien-18-ynoic acid | CC([C@@H](/C=C/[C@H]1CCC([C@@H]1C\C=C/CCCC(=O)O)=O)OC1OCCCC1)CC#CC | C26H38O5
solvent | acetic acid water THF | C(C)(=O)O.O.C1CCOC1
product | (5Z,13E)-(15S,16RS)-16-Methyl-15-hydroxy-9-oxo-5,13-prostadien-18-ynoic Acid | CC([C@@H](/C=C/[C@H]1CCC([C@@H]1C\C=C/CCCC(=O)O)=O)O)CC#CC | C21H30O4
